Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PODIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left heel pain, Calcaneal exostosis
 
Major Surgical or Invasive Procedure:
___: Left foot; excision retro-calcaneal exostosis, Achilles 
tendon debridement

 
History of Present Illness:
Ms. ___ ___ female, presents for preoperative evaluation
prior to her left heel surgery on ___ for a painful
calcaneal exostosis and Achilles tendinopathy. She has undergone
and failed all conservative treatments and would like to undergo
surgical intervention.  

Of note, she and her sister look after each other. However, her
sister was recently admitted to the hospital and will likely be
unable to take care of her this week and for some of the weeks
following surgery. Given this, she and her sister believe that
she would be better off with rehab placement following surgery.

She reports that she lives in a group home and will likely need
more help and supervision after surgery given the change in
weightbearing status. She is uncertain whether she will be able
to take care of herself and look after her cat. After rehab
placement, she would like to have services provided at home as
well to make sure she is safe.
 
Past Medical History:
None
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Post-Op Physical Exam:
======================
VITAL SIGNS:
AFVSS
GENERAL: AAOx3 and in NAD
CARDIAC: RRR, no MRG 
LUNGS: CTAB
ABD: Soft, non-distended, non-tender, NBS in all quadrants
=====
LOWER EXTREMITY FOCUSED:
Left lower extremity cast clean, dry, intact. She is able to
actively range digits. ___ CRT to all digits. 

Discharge Physical Exam:
========================
VITAL SIGNS:
24 HR Data (last updated ___ @ 520)
    Temp: 97.9 (Tm 98.0), BP: 119/75 (87-123/58-75), HR: 72
(69-83), RR: 18 (___), O2 sat: 98% (94-98), O2 delivery: Ra 
GENERAL: AAOx3 and in NAD
CARDIAC: RRR, no MRG 
LUNGS: CTAB
ABD: Soft, non-distended, non-tender, NBS in all quadrants
=====
LOWER EXTREMITY FOCUSED:
Left lower extremity cast clean, dry, intact. She is able to
actively range digits. ___ CRT to all digits. 
 
Pertinent Results:
Labs:
=====
___ 06:35PM BLOOD WBC-8.6 RBC-4.64 Hgb-13.6 Hct-41.8 MCV-90 
MCH-29.3 MCHC-32.5 RDW-13.2 RDWSD-43.3 Plt ___
___ 10:03AM BLOOD WBC-11.1* RBC-4.64 Hgb-13.5 Hct-41.8 
MCV-90 MCH-29.1 MCHC-32.3 RDW-13.4 RDWSD-44.0 Plt ___
___ 10:01AM BLOOD WBC-7.0 RBC-4.35 Hgb-12.6 Hct-39.6 MCV-91 
MCH-29.0 MCHC-31.8* RDW-13.5 RDWSD-45.1 Plt ___

___ 06:35PM BLOOD Glucose-234* UreaN-11 Creat-0.9 Na-141 
K-4.1 Cl-106 HCO3-20* AnGap-15
___ 10:03AM BLOOD Glucose-113* UreaN-12 Creat-0.7 Na-141 
K-3.8 Cl-106 HCO3-21* AnGap-14
___ 10:01AM BLOOD Glucose-131* UreaN-17 Creat-0.8 Na-144 
K-4.1 Cl-107 HCO3-24 AnGap-13

___ 06:35PM BLOOD Calcium-9.3 Phos-2.0* Mg-1.8
___ 10:03AM BLOOD Calcium-9.2 Phos-3.2 Mg-2.1
___ 10:01AM BLOOD Calcium-9.0 Phos-4.0 Mg-1.8

___ 07:57AM BLOOD %HbA1c-5.9 eAG-123

Radiology:
==========
Left Foot X-Ray (___):

EXAMINATION: FOOT AP,LAT AND OBL LEFT 
  
INDICATION: ___ year old woman s/p left calcaneal exostectomy, 
Achilles 
debridement and re-attachment  // Post op eval 
  
IMPRESSION:  
  
No previous images. Overlying cast greatly obscures detail 
following 
calcaneal exostectomy and Achilles debridement and reattachment. 
 Further 
information can be gathered from the operative report. 

 
Brief Hospital Course:
The patient presented as a same day admission for surgery. The 
patient was taken to the operating room on ___ for left 
calcaneal exostectomy with Achilles tendon debridement, which 
the patient tolerated well. For full details of the procedure 
please see the separately dictated operative report. 

The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the floor. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications by POD#1. The patient was given 
___ anticoagulation per routine. The patient worked 
with ___ who determined that discharge to rehab was appropriate. 
The ___ hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
non-weightbearing to the left lower extremity, and will be 
discharged on aspirin 81mg daily for DVT prophylaxis. She was 
discharged home with services (occupational and physical 
therapy).

The patient will follow up with Dr. ___ routine. A 
thorough discussion was had with the patient regarding the 
diagnosis and expected post-discharge course including reasons 
to call the office or return to the hospital, and all questions 
were answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 dose by mouth once a day 
Disp #*30 Packet Refills:*0 
6.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left ___ Deformity s/p Ostectomy with Achilles Debridement 
and Re-attachment
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at ___. You were admitted 
to the Podiatric Surgery service after your left heel surgery. 
You are being discharged home with the following instructions:

ACTIVITY:
There are restrictions on activity. Please remain non 
weightbearing to your left foot. You should keep this site 
elevated whenever possible (above the level of the heart!). No 
driving until cleared by your podiatric surgeon.

PLEASE MONITOR FOR THE FOLLOWING SIGNS:
Watch for signs and symptoms of infection in your foot. These 
are: 
-a fever greater than 101 degrees Fahrenheit,
-increased redness around your wounds,
-increased pain with swelling,
-pus draining from the incision site. 

If you experience any of these signs or symptoms or see active 
bleeding at the incision site, please call our office at ___. Then, one of our on-call podiatrists will speak to you 
and determine if you need to proceed to the emergency room or 
can be scheduled for an urgent clinic appointment.

Also, please call the office in you experience any increased 
swelling, redness, or pain in your leg or calf, chest pain, 
shortness or breath.

***You may experience some nausea but this could be related to 
your medication  (either antibiotics or pain medication). You 
should not take these medications on an empty stomach. 

EXERCISE:
-Limit strenuous activity for 6 weeks.
-No heavy lifting greater than 20 pounds for the next ___ days.
-Try to keep leg elevated when able.

BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub. Shower bags or “Reuseable Cast and Wound Protectors” 
are available at most convenience stores such as ___, 
___, ___, and online on ___. Avoid 
taking a tub bath, swimming, or soaking in a hot tub for four 
weeks after surgery or until cleared by your physician.

WOUND CARE:
Unless you have a visiting nurse set up for you or are 
instructed to change your dressings, please leave them intact 
until your follow up. It is important to keep them dry as noted 
in the “Bathing/Showering” instructions above.

MEDICATIONS:
Unless told otherwise, you should resume taking all of the 
medications you were taking at home before surgery.

*Pain Medication*

Aside from resting and elevating your foot at home, there are 
medications we may provide you to help reduce your pain.

Unless instructed to not take them, acetaminophen (Tylenol) and 
ibuprofen (Advil, Motrin) should be taken first to help relieve 
pain. Acetaminophen can be taken up to 1000 mg every 6 hours 
(not to exceed 4000 mg daily). Ibuprofen can be taken up to 800 
mg every 6 hours (not to exceed 3200 mg daily).

Narcotic pain medications such as oxycodone, Percocet, Vicodin, 
etc. can be constipating and you should increase the fluid and 
bulk foods in your diet. If you feel that you are constipated, 
do not strain at the toilet. If a laxative is not prescribed for 
you, you may use over the counter Metamucil, Milk of Magnesia, 
or Miralax daily while taking opioid pain medications. Appetite 
suppression may occur shortly after surgery and while taking 
these medications but this will improve with time. Eat small 
balanced meals throughout the day.

DIET:
There are no special restrictions on your diet postoperatively. 
Poor appetite is not unusual for weeks after surgery and small, 
frequent meals may be preferred.

FOLLOW-UP APPOINTMENTS:
Be sure to keep your medical appointments with your surgeon but 
also your primary care physician (PCP).

Please follow up with your podiatric surgeon, Dr. ___. If a 
follow-up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit (Phone 
Number: ___. This should be scheduled on the calendar 
for one to two weeks after discharge. Our surgeons have 
locations in ___, ___, and ___. If 
you would prefer one of these locations, please ask the main 
office if your surgeon has clinic at any of these other 
locations.

Please make sure to follow up with your primary care physician 
(PCP)  as well regarding your hospital admission within one to 
two weeks to review why you were in the hospital, what you 
underwent, and if you need any of your regular medications 
refilled or adjusted (for example, blood pressure medication). 
While your podiatric physician may manage your other medical 
conditions while in the hospital, it is important to see your 
PCP for further management.

PLEASE FEEL FREE TO CALL THE PODIATRIC SURGERY OFFICE AT ___ WITH ANY OTHER CONCERNS OR QUESTIONS THAT MIGHT ARISE. 

Thank you for staying with us at ___ 
___ and we wish you a healthy and speedy recovery!
 
Followup Instructions:
___